US06316467B1
A mixture of N-(1,5-dimethyl-hexyl)-4-hydroxy-4-phenyl-butyramide (3.50 g, 12.0 mmol), prepared in the previous step, and pyridinium chlorochromate (3.89 g, 18.0 mmol) in 150 ml of methylene chloride was stirred at room temperature for 1.25 hours. The reaction was poured onto 400 g of silica gel (230-400 mesh) and the material eluted with methylene chloride-ethyl acetate. Isolation of the major component gave N-(1,5-dimethyl-hexyl)-4-oxo-4-phenyl-butyramide (2.71 g, 78%) as a light green solid, mp 84-87° C.

reactant | N-(1,5-dimethyl-hexyl)-4-hydroxy-4-phenyl-butyramide | 12.0 mmol, 3.50 g | CC(CCCC(C)C)NC(CCC(C1=CC=CC=C1)O)=O | C18H29NO2
reactant | pyridinium chlorochromate | 18.0 mmol, 3.89 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(1,5-dimethyl-hexyl)-4-oxo-4-phenyl-butyramide | 2.71 g, 78% | CC(CCCC(C)C)NC(CCC(C1=CC=CC=C1)=O)=O | C18H27NO2
